US07915443B2
(S)-5-({4-[(2-methylbenzoyl)amino]phenyl}ethynyl)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
In a manner similar to that described in Example 449, N-(4-ethynyl-phenyl)-2-methyl-benzamide (0.104 g, 0.443 mmol) and (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide (100 mg, 0.295 mmol) were reacted to give the title compound (109 mg, 75%).

reactant | N-(4-ethynyl-phenyl)-2-methyl-benzamide | 0.443 mmol, 0.104 g | C(#C)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)C)=O | C16H13NO
reactant | (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 0.295 mmol, 100 mg | BrC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C13H11BrN2O2S
product | (S)-5-({4-[(2-methylbenzoyl)amino]phenyl}ethynyl)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 109 mg, 75% | CC1=C(C(=O)NC2=CC=C(C=C2)C#CC=2C=NC=C(C(=O)N=[S@](C3=CC=CC=C3)(=O)C)C2)C=CC=C1 | C29H23N3O3S
